US06716861B2
tert-butyl (3R)-6-cyclohexyl-3-(3-{[(2-methoxyethyl)amino]methyl}-1,2,4-oxadiazol-5-yl)hexanoate
Method as for preparation 5 using tert-butyl (3R)-6-cyclohexyl-3-[3-({[(4-methylphenyl)sulfonyl]oxy}methyl)-1,2,4-oxadiazol-5-yl]hexanoate (preparation 177) (500 mg, 0.99 mmol) and 2-methoxyethylamine (225 mg, 2.97 mmol) as starting materials to afford the title compound as a colourless oil (372 mg).

reactant | tert-butyl (3R)-6-cyclohexyl-3-[3-({[(4-methylphenyl)sulfonyl]oxy}methyl)-1,2,4-oxadiazol-5-yl]hexanoate | 0.99 mmol, 500 mg | C1(CCCCC1)CCC[C@H](CC(=O)OC(C)(C)C)C1=NC(=NO1)COS(=O)(=O)C1=CC=C(C=C1)C | C26H38N2O6S
reactant | 2-methoxyethylamine | 2.97 mmol, 225 mg | COCCN | C3H9NO
product | tert-butyl (3R)-6-cyclohexyl-3-(3-{[(2-methoxyethyl)amino]methyl}-1,2,4-oxadiazol-5-yl)hexanoate | 372 mg | C1(CCCCC1)CCC[C@H](CC(=O)OC(C)(C)C)C1=NC(=NO1)CNCCOC | C22H39N3O4
